US04226869
7-Chloro-10-[(5-diethylaminopentyl)amino]-2-methoxypyrido[3,2-b]quinoline dihydrochloride
A mixture of 2.8 g. of 7,10-dichloro-2-methoxypyrido [3,2-b]quinoline, 1.7 g. of 5-diethylaminopentylamine and 6.5 g. of phenol was treated as in Example 5 to obtain the title compound, m.p. 232°-233° C.

reactant | 7,10-dichloro-2-methoxypyrido [3,2-b]quinoline | ClC=1C=CC=2C(=C3C(=NC2C1)C=CC(=N3)OC)Cl | C13H8Cl2N2O
reactant | 5-diethylaminopentylamine | C(C)N(CCCCCN)CC | C9H22N2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 7-Chloro-10-[(5-diethylaminopentyl)amino]-2-methoxypyrido[3,2-b]quinoline dihydrochloride | Cl.Cl.ClC=1C=CC=2C(=C3C(=NC2C1)C=CC(=N3)OC)NCCCCCN(CC)CC | InChI=1S/C22H29ClN4O.2ClH/c1-4-27(5-2)14-8-6-7-13-24-21-17-10-9-16(23)15-19(17)25-18-11-12-20(28-3)26-22(18)21;;/h9-12,15H,4-8,13-14H2,1-3H3,(H,24,25);2*1H
